US04632995
167 g (0.73 mole) of p-chlorophenylphosphonic acid dichloride and 121 g (0.46 mole) of triphenylphosphane were stirred for 2 hours at 180° C. and for 10 hours at 200° C. under an atmosphere of nitrogen. Distillation was then carried out at 0.04 kPa until a top temperature of 140° C. was reached. This gave 145 g, containing 58.5% of p-chlorophenyldichlorophosphane and 41.5% of p-chlorophenylphosphonic acid dichloride (according to 31P-NMR spectrum). The distillate was fractionated using a 70 cm silvered-jacketed column, packed with Raschig rings. Pure p-chlorophenyldichlorophosphane (boiling point: 71° C./0.093 kPa) was obtained. This corresponds to a yield of 85% of theory, based on triphenylphosphane employed.

reactant | p-chlorophenylphosphonic acid dichloride | 0.73 mole, 167 g | ClC1=CC=C(C=C1)P(=O)(Cl)Cl | C6H4Cl3OP
reactant | triphenylphosphane | 0.46 mole, 121 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | p-chlorophenyldichlorophosphane | yield of 85% | ClC1=CC=C(C=C1)P(Cl)Cl | C6H4Cl3P
